US04362728
A mixture of 4-amino-2-[(2-phthalimidoethyl)-thiomethyl]pyrimidine (5.9 g.), 2,2,2-trifluoroethylisothiocyanate (3.9 g.) and acetonitrile (20 ml.) was stirred at 70° for 72 hours. The reaction mixture was cooled and the crystalline precipitate collected to give 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine (5.35 g.), m.p. 178°-179°.

reactant | 4-amino-2-[(2-phthalimidoethyl)-thiomethyl]pyrimidine | 5.9 g | NC1=NC(=NC=C1)CSCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H14N4O2S
reactant | 2,2,2-trifluoroethylisothiocyanate | 3.9 g | FC(CN=C=S)(F)F | C3H2F3NS
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-[(2-phthalimidoethyl)thiomethyl]pyrimidine | 5.35 g | FC(CNC(NC1=NC(=NC=C1)CSCCN1C(C=2C(C1=O)=CC=CC2)=O)=S)(F)F | C18H16F3N5O2S2
